US06900215B2
Imidazo[1,2-α]pyrimidine (0.20 g, 1.68 mmol) and sodium acetate 207 mg, 2.52 mmol) were dissolved in methanol (2 ml) which had been saturated with potassium bromide and this mixture was cooled to −10° C. before dropwise addition of bromine (269 mg, 1.68 mmol) over 5 min. On complete addition the mixture was quenched by addition of 1M sodium sulfite solution (2 ml) and the solvent removed in vacuo. The residue was treated with water (15 ml) and saturated sodium hydrogencarbonate solution (15 ml) and extracted with ethyl acetate (2×50 ml). The organics were combined then washed with brine (40 ml), dried over anhydrous sodium sulfate and evaporated to give an off-white solid. This solid was purified by silica gel chromatography eluting with dichloromethane and 1% conc. ammonia on a gradient of methanol (1-2%) to give 3-bromoimidazo[1,2-α]pyrimidine (0.29 g, 87%) as a white solid: δH (400 MHz, CDCl3) 7.02 (1H, dd, J 7 and 4), 7.83 (1H, s), 8.43 (1H, dd, J 7 and 2), 8.59 (1H, dd, J 7 and 2).

reactant | Imidazo[1,2-α]pyrimidine | 1.68 mmol, 0.20 g | N=1C=CN2C1N=CC=C2 | C6H5N3
reactant | sodium acetate | 2.52 mmol, 207 mg | C(C)(=O)[O-].[Na+]
reactant | potassium bromide | [Br-].[K+]
reactant | bromine | 1.68 mmol, 269 mg | BrBr | Br2
solvent | methanol | 2 ml | CO | CH4O
product | 3-bromoimidazo[1,2-α]pyrimidine | 0.29 g, 87% | BrC1=CN=C2N1C=CC=N2 | C6H4BrN3
